* synthetic-real alter corner deck
.param cdecap=10u rvrm=2m
Vvrm vdd 0 0.8
Rvrm vdd rail {rvrm}
Cdecap rail 0 {cdecap}
.print tran v(rail)
.tran 10p 2n
.end
