* synthetic-real output normalization deck
Vsrc vdd 0 0.8
R1 vdd load 10m
C1 load 0 1u
.print tran v(load)
.probe tran v(vdd) i(Vsrc)
.measure tran min_load min v(load) from=1n to=5n
.meas tran max_load max v(load) from=1n to=5n
.tran 10p 5n
.end
